Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PODIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Right hallux fracture with dorsal laceration
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: Pt is a ___ with h/o CAD s/p stents (___ ___, IDDM c/b
neuropathy who was transfered from ___ with Right hallux
fracture and laceration. Per pt report he has tripped several
times over the last 3 weeks most recently ___ night at which
point he noted a laceration dorsally along nail bed. The
laceration bleed considerably prompting him to present to 
___ on ___ for evaluation. Given his h/o IDDM ___ 
Podiatry
suggested transfer to ___ for further care. Pt states his 
last
meal was at approx 8 or 9pm at ___. He states that his
pain is minimal. He was given Vancomycin in ___ prior to
transfer. He denies fevers, chills, nausea, vomitting. Of note,
he was recently admitted to ___ 3 weeks ago for CP.
Work-up there was negative per pt report

 
Past Medical History:
Past Medical History:
1) status post left great toe debridement ___ 
2) CAD s/p MI in ___ treated with a stent which restenosed 
and was redone in ___. Neg stress MIBI 6 months ago.
3) Lumbar fusion in ___ at ___, ?L4-L5
4) DM 
5) Gastroparesis
6) HTN

 
Social History:
___
Family History:
N/A
 
Physical Exam:
PHYSICAL EXAM
.
97.6 72 134/56 16 98  
Appearance: NAD
HEENT: NC, A, EOMI
Heart: RRR
Lungs: CTA ___
Abdomen: soft, NT, ND
.
VASCULAR
.
Pedal Pulses:      [] ___ palp. +Dopplerable DP
.
Sub-Papillary VFT: [x] < 3 sec.  [] > 3 sec. [] Immediate
.
Extremities:       [] pitting edema  [] non-pitting edema
                   [] Anasarca
.
LYMPHATIC:         [] Lymphadenopathy [] Lymphangitis
.
NEUROLOGICAL       Sensation:      [] Intact  [x] Absent
                   Proprioception: [x] Intact  [] Absent

INTEGUMENT:
Right hallux with linear laceration just proximal to proximal
nail bed. +probes to bone. very minimal edema to Right hallux.
very minimal pain with palpation or ROM 

 
Pertinent Results:
___ 01:05AM BLOOD WBC-8.8 RBC-3.90* Hgb-11.7* Hct-33.0* 
MCV-85 MCH-30.0 MCHC-35.5* RDW-13.3 Plt ___
___ 01:05AM BLOOD Glucose-464* UreaN-32* Creat-1.3* Na-127* 
K-4.3 Cl-90* HCO3-31 AnGap-10

 
Brief Hospital Course:
Mr. ___ was transferred from ___ in the early 
morning on ___ for a right hallux fracture with dorsal 
laceration.  He was seen in the ___ and admitted to podiatry.  He 
was later staffed with an attending and steri strips and a clean 
dressing were applied.  He was started on IV abx.  The rest of 
his course was benign, and he is being discharged with pain 
medications, 7 days of clindamycin, and a surgical shoe.  He 
should follow up with Dr. ___ discharge.
 
Medications on Admission:
asa 81, atenolol 50', citalopram 40', lisinopril 5',
simvistatin, neurontin, Lantus 22U HS, Humalog SS

 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
6. Insulin
Please continue your at home insulin schedule.
7. Clindamycin HCl 300 mg Capsule Sig: One (1) Capsule PO every 
eight (8) hours for 7 days.
Disp:*21 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dorsal laceration
Right hallux fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were started on new medications.  Please take as directed.

If you notice any of the following symptoms, please contact your 
podiatrist.  Fever over 101.5F, Redness and edema, pus.

You should keep your dressing clean, dry, and intact.  Please 
remain partial weight bearing to your heel in your surgical 
shoe.
 
Followup Instructions:
___